US07807708B2
To 5.6 g of ethyl 3′-bromo-4′-hydroxy-biphenyl-4-carboxylate (17 mmol) are added 6.5 g of 3-tert-butyl-4-diethylaminophenylboronic acid (26 mmol) dissolved in 112 mL of toluene and 30.5 mL of 2M potassium carbonate (61 mmol). The reaction medium is stirred and heated to 40° C.; 2 g of tetrakis(triphenylphosphine)palladium (Pd(PPh3)4) (1.74 mmol) are added and the medium is heated to 110° C. and stirred for 3 hours. The reaction is stopped by adding 200 mL of water and the medium is then extracted with 200 mL of ethyl acetate. The organic phases are washed with 400 mL of water and neutralized with 200 mL of saturated NH4Cl and then dried over magnesium sulfate. The solvents are evaporated off and the residue is then purified by chromatography on silica gel (eluent: 9/1 heptane/ethyl acetate). 1.2 g of ethyl 3″-tert-butyl-4″-diethylamino-4′-hydroxy[1,1′;3′,1″]terphenyl-4-carboxylate are obtained (yield=16%) in the form of an orange solid.

reactant | ethyl 3′-bromo-4′-hydroxy-biphenyl-4-carboxylate | 17 mmol, 5.6 g | BrC=1C=C(C=CC1O)C1=CC=C(C=C1)C(=O)OCC | C15H13BrO3
reactant | 3-tert-butyl-4-diethylaminophenylboronic acid | 26 mmol, 6.5 g | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)B(O)O | C14H24BNO2
reactant | potassium carbonate | 61 mmol, 2M, 30.5 mL | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 mL | O | H2O
solvent | toluene | 112 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 1.74 mmol, 2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3″-tert-butyl-4″-diethylamino-4′-hydroxy[1,1′;3′,1″]terphenyl-4-carboxylate | 1.2 g, yield=16% | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C=1C=C(C=CC1O)C1=CC=C(C=C1)C(=O)OCC | C29H35NO3
